US07569550B2
f) 9-(3-tert-butoxycarbonylamino-propyl)-1-oxo-6,7-dihydro-1H,5H-pyrido[3,2,1-ij]quinoline-2-carboxylic acid sodium salt
Ethyl 9-(3-tert-butoxycarbonylamino-propyl)-1-oxo-6,7-dihydro-1H,5H-pyrido[3,2,1-ij]quinoline-2-carboxylate (240 mg, 0.59 mmol) was dissolved in tetrahydrofuran (3 mL) and treated with 2N aqueous sodium hydroxide (0.32 mL). The solution was heated to 50° C. overnight then treated with excess solid carbon dioxide. Evaporation of the solvent gave the title compound as a beige solid. ESMS m/z 387 (MH+). NMR (DMSO-d6) δ 8.83 (s, 1H), 8.11 (bs, 1H), 7.99 (s, 1H), 7.57 (s, 1H), 6.89 (bt, 1H), 4.41 (bt, 2H), 3.04 (t, 2H), 2.94 (q, 2H), 2.71 (t,2H), 2.13 (m, 2H), 1.74 (m, 2H), 1.37 (s, 9H).

reactant | Ethyl 9-(3-tert-butoxycarbonylamino-propyl)-1-oxo-6,7-dihydro-1H,5H-pyrido[3,2,1-ij]quinoline-2-carboxylate | 0.59 mmol, 240 mg | C(C)(C)(C)OC(=O)NCCCC=1C=C2C(C(=CN3C2=C(C1)CCC3)C(=O)OCC)=O | C23H30N2O5
reactant | sodium hydroxide | 2N, 0.32 mL | [OH-].[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 9-(3-tert-butoxycarbonylamino-propyl)-1-oxo-6,7-dihydro-1H,5H-pyrido[3,2,1-ij]quinoline-2-carboxylic acid sodium salt | [Na+].C(C)(C)(C)OC(=O)NCCCC=1C=C2C(C(=CN3C2=C(C1)CCC3)C(=O)[O-])=O | InChI=1S/C21H26N2O5.Na/c1-21(2,3)28-20(27)22-8-4-6-13-10-14-7-5-9-23-12-16(19(25)26)18(24)15(11-13)17(14)23;/h10-12H,4-9H2,1-3H3,(H,22,27)(H,25,26);/q;+1/p-1
